US09212190B2
To a solution of 3-[[4-(morpholin-4-yl)cyclohexyl]oxy]-8-thia-4,6,12-triazatricyclo[7.4.0.0[2,7]]trideca-1(9),2 (7),3,5-tetraene trifluoroacetate (100 mg, crude) in DCM (20 mL) was added TEA (108 mg, 1.07 mmol). The solution was stirred for 10 min at 0° C. under nitrogen. Then acetyl chloride (41.9 mg, 0.53 mmol) was added to the reaction solution at this temperature and the resulting solution was stirred for 1.5 h at room temperature. The reaction was then quenched by the addition of ethanol and concentrated under vacuum. The crude product was purified by preparative HPLC under the following conditions (Waters): Column: Xbridge Prep C18, 5 μm, 19*50 mm; mobile phase: water with 0.05% NH4HCO3 and CH3CN (10% CH3CN up to 35% in 11 min, up to 95% in 1.5 min, down to 10% in 1.5 min); detector: UV 254/220 nm. After concentration in vacuo and lyophilization overnight, the corresponding 1-(3-[[4-(morpholin-4-yl)cyclohexyl]oxy]-8-thia-4,6,12-triazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-12-yl)ethan-1-one (22.1 mg) was obtained as a white solid. MS (ES): m/z 417 (M+H)+ and 429 (M+Na)+. 1H NMR (300 MHz, CD3OD): δ 8.54 (1H, s), 5.33-5.23 (1H, m), 4.91 (2H, s), 3.97, 3.90 (2H, t, t), 3.76-3.69 (4H, m), 3.05, 2.95 (2H, t, t), 2.67-2.58 (4H, t), 2.34-2.25 (3H, m), 2.25, 2.23 (3H, s, s), 2.10 (2H, d), 1.74-1.45 (4H, m).

reactant | 3-[[4-(morpholin-4-yl)cyclohexyl]oxy]-8-thia-4,6,12-triazatricyclo[7.4.0.0[2,7]]trideca-1(9),2 (7),3,5-tetraene trifluoroacetate | 100 mg | FC(C(=O)O)(F)F.N1(CCOCC1)C1CCC(CC1)OC=1C=2C=3CNCCC3SC2N=CN1
reactant | acetyl chloride | 0.53 mmol, 41.9 mg | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-[[4-(morpholin-4-yl)cyclohexyl]oxy]-8-thia-4,6,12-triazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-12-yl)ethan-1-one | 22.1 mg | N1(CCOCC1)C1CCC(CC1)OC=1C=2C=3CN(CCC3SC2N=CN1)C(C)=O | C21H28N4O3S
